US04021487
m-Nitroacetophenone (66.0 g., 0.40 mole), water containing 0.70 mole phosphoric acid (300 ml.), and 5% palladium on carbon (2.0 g.) were hydrogenated as in Example II until hydrogen absorption ceased (2 hours). Work-up after neutralization with 1.40 moles potassium hydroxide gave m-amino-α-methylbenzyl alcohol in 75% yield which was 99% pure by GLC and contained 0.8% m-ethylaniline.

reactant | m-Nitroacetophenone | 0.40 mole, 66.0 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C)=O | C8H7NO3
reactant | water | 0.70 mole, 300 ml | O | H2O
reactant | hydrogen | [H][H] | H2
reactant | potassium hydroxide | 1.40 moles | [OH-].[K+]
catalyst | palladium on carbon | 2.0 g | [Pd] | Pd
product | m-amino-α-methylbenzyl alcohol | 75% yield | NC=1C=C(C(C)O)C=CC1 | C8H11NO
